*fully_differential_folded_cascode.css (ledro)

.include "/home/pham/code/analog-ml/AutoCkt/eval_engines/ngspice/ngspice_inputs/spice_models/45nm_bulk.txt"

* Parameters
.param tempc=27.0
.param wp1=0.5u lp1=90n mp1={{mp1}}
.param wp2=0.5u lp2=90n mp2={{mp2}}
.param wp3=0.5u lp3=90n mp3={{mp3}}
.param wp4=0.5u lp4=90n mp4={{mp4}}
.param wp5=0.5u lp5=90n mp5={{mp5}}
.param wp6=0.5u lp6=90n mp6={{mp6}}
.param vdd=1.2 vcm=0.6 vbiasp1={{vbiasp1}} vbiasp2={{vbiasp2}}
.param vbiasn0={{vbiasn0}} vbiasn1={{vbiasn1}} vbiasn2={{vbiasn2}}

M6 Voutp Vbiasp2 net23 vdd pmos W={wp1} L={lp1} m={mp1} 
M5 Voutn Vbiasp2 net24 vdd pmos W={wp1} L={lp1} m={mp1} 
M2 net23 Vbiasp1 vdd vdd pmos W={wp2} L={lp2} m={mp2} 
M1 net24 Vbiasp1 vdd vdd pmos W={wp2} L={lp2} m={mp2} 
M8 Voutp Vbiasn2 net27 0 nmos W={wp3} L={lp3} m={mp3} 
M7 Voutn Vbiasn2 net25 0 nmos W={wp3} L={lp3} m={mp3} 
M3 net24 Vinp net13 0 nmos W={wp4} L={lp4} m={mp4} 
M0 net23 Vinn net13 0 nmos W={wp4} L={lp4} m={mp4} 
M10 net27 Vbiasn1 0 0 nmos W={wp5} L={lp5} m={mp5} 
M9 net25 Vbiasn1 0 0 nmos W={wp5} L={lp5} m={mp5} 
M4 net13 Vbiasn0 0 0 nmos W={wp6} L={lp6} m={mp6} 

* Voltage sources
* VS gnd 0 DC 0
V0 vdd 0 DC {vdd}
V2 in 0 DC 0 AC 1
E1 Vinp cm in 0 0.5
E0 Vinn cm in 0 -0.5
V1 cm 0 DC {vcm}
VP1 Vbiasp1 0 DC {vbiasp1}
VP2 Vbiasp2 0 DC {vbiasp2}
VN Vbiasn0 0 DC {vbiasn0}
VN1 Vbiasn1 0 DC {vbiasn1}
VN2 Vbiasn2 0 DC {vbiasn2}


.control
op
set xbrushwidth=3
set filetype=ascii
run

let vgs_nm0 = v(Vinn) - v(net13)
let vds_nm0 = v(net23) - v(net13)

let vgs_nm1 = v(Vbiasp1) - v(vdd)
let vds_nm1 = v(net24) - v(vdd)

let vgs_nm2 = v(Vbiasp1) - v(vdd)
let vds_nm2 = v(net23) - v(vdd)

let vgs_nm3 = v(Vinp) - v(net13)
let vds_nm3 = v(net24) - v(net13)

let vgs_nm4 = v(Vbiasn0) 
let vds_nm4 = v(net13) 

let vgs_nm5 = v(Vbiasp2) - v(net24)
let vds_nm5 = v(Voutn) - v(net24)

let vgs_nm6 = v(Vbiasp2) - v(net23)
let vds_nm6 = v(Voutp) - v(net23)

let vgs_nm7 = v(Vbiasn2) - v(net25)
let vds_nm7 = v(Voutn) - v(net25)

let vgs_nm8 = v(Vbiasn2) - v(net27)
let vds_nm8 = v(Voutp) - v(net27)

let vgs_nm9 = v(Vbiasn1)
let vds_nm9 = v(net25)

let vgs_nm10 = v(Vbiasn1) 
let vds_nm10 = v(net27) 

write output.log I(V0) @m0[gm] @m0[ids] @m0[vth] vgs_nm0 vds_nm0
+ @m1[gm] @m1[ids] @m1[vth] vgs_nm1 vds_nm1
+ @m2[gm] @m2[ids] @m2[vth] vgs_nm2 vds_nm2 
+ @m3[gm] @m3[ids] @m3[vth] vgs_nm3 vds_nm3
+ @m4[gm] @m4[ids] @m4[vth] vgs_nm4 vds_nm4
+ @m5[gm] @m5[ids] @m5[vth] vgs_nm5 vds_nm5 
+ @m6[gm] @m6[ids] @m6[vth] vgs_nm6 vds_nm6
+ @m7[gm] @m7[ids] @m7[vth] vgs_nm7 vds_nm7
+ @m8[gm] @m8[ids] @m8[vth] vgs_nm8 vds_nm8
+ @m9[gm] @m9[ids] @m9[vth] vgs_nm9 vds_nm9
+ @m10[gm] @m10[ids] @m10[vth] vgs_nm10 vds_nm10


ac dec 10 1 10G
run
set units=degrees
set wr_vecnames
option numdgt=7
wrdata {{design_path}}/ac.csv v(Voutp)-v(Voutn)


op
wrdata {{design_path}}/dc.csv i(V0)
quit
.endc

.end